US06878722B2
To a solution of 3.12 g (15.7 mmol) of 4-isopropylthiazole-2-carboxylic acid ethyl ester in 32 mL of 75% THF/MeOH, was added 110 mg (31.3 mmol) of LiOH in 8 mL of H2O. The mixture was stirred overnite, the solution adjusted to pH 5 using 1N aqueous HCl solution and concentrated in vacuo to afford 4-isopropylthiazole-2-carboxylic acid as a white solid (2.97 g including salts) which was used directly in Step E: 1H NMR (500 methanol-d4) δ ppm 1.29 (d, J=6.7 Hz, 6H), 3.20 (m, 1H), 7.39 (m, 1H).

reactant | 4-isopropylthiazole-2-carboxylic acid ethyl ester | 15.7 mmol, 3.12 g | C(C)OC(=O)C=1SC=C(N1)C(C)C | C9H13NO2S
reactant | LiOH | 31.3 mmol, 110 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF MeOH | 32 mL | C1CCOC1.CO
solvent | H2O | 8 mL | O | H2O
product | 4-isopropylthiazole-2-carboxylic acid | C(C)(C)C=1N=C(SC1)C(=O)O | C7H9NO2S
